US05166204
In 10 ml of chloroform was dissolved 150 mg of 2-(2-dimethylaminoethyl)-5-methyl-1H-benzofuro[3,2-e]-isoindole-1,3(2H)-dione. Into the solution was introduced hydrogen chloride gas with ice cooling, until the solution was saturated with the gas. The resulting solution was stirred for 10 minutes with ice cooling. The resulting crystals were collected by filtration and dried to obtain 140 mg (yield: 84%) of 2-(2-dimethylaminoethyl)-5-methyl-1H-benzofuro[3,2-e]isoindole-1,3(2H)-dione hydrochloride as light yellow crystals.

reactant | 2-(2-dimethylaminoethyl)-5-methyl-1H-benzofuro[3,2-e]-isoindole-1,3(2H)-dione | 150 mg | CN(CCN1C(C=2C=C(C3=C(C2C1=O)C1=C(O3)C=CC=C1)C)=O)C | C19H18N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-dimethylaminoethyl)-5-methyl-1H-benzofuro[3,2-e]isoindole-1,3(2H)-dione hydrochloride | 140 mg, yield: 84% | Cl.CN(CCN1C(C=2C=C(C3=C(C2C1=O)C1=C(O3)C=CC=C1)C)=O)C | InChI=1S/C19H18N2O3.ClH/c1-11-10-13-16(19(23)21(18(13)22)9-8-20(2)3)15-12-6-4-5-7-14(12)24-17(11)15;/h4-7,10H,8-9H2,1-3H3;1H
